US08044213B2
A mixture of 0.280 g (0.67 mmole) of 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-ylamino]-4-nitro-benzoic acid (VI.10), 0.20 g of 10% palladium on carbon catalyst and 3 mL of 96% formic acid was stirred under an atmosphere of hydrogen at room temperature for 16 hours. The mixture was filtered through Diatomaceous earth and the Diatomaceous earth pad was washed with formic acid. The filtrate was concentrated under reduced pressure and the residue was dissolved in 1 mL of tetrahydrofuran and then added dropwise to 50 mL of water. The solid was collected by filtration, washing with water, to give 0.163 g of 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-yl]-3H-benzoimidazole-5-carboxylic acid (I.10a).

reactant | 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-ylamino]-4-nitro-benzoic acid | 0.67 mmole, 0.280 g | C(N)(=O)C1=C(N=C(S1)NC=1C=C(C(=O)O)C=CC1[N+](=O)[O-])C1=CC(=CC=C1)Cl | C17H11ClN4O5S
reactant | formic acid | 3 mL | C(=O)O | CH2O2
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-yl]-3H-benzoimidazole-5-carboxylic acid | 0.163 g | C(N)(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C=C2)C(=O)O)C2=CC(=CC=C2)Cl | C18H11ClN4O3S
